US08030347B2
6-Amino-1-benzofuran-3(2H)-one
5 ml of 1 N hydrochloric acid are added to a solution of 500 mg (2.62 mmol) of N-(3-oxo-2,3-dihydro-1-benzofuran-6-yl)acetamide in 5 ml of methanol, and the mixture is heated under reflux for one hour. After cooling, the mixture is added to a mixture of ice-water, saturated sodium bicarbonate solution and ethyl acetate. The organic phase is separated off, washed with water and saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. 318 mg (61% of theory) of the target compound result as brown powder with a purity of 75%.

reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
reactant | N-(3-oxo-2,3-dihydro-1-benzofuran-6-yl)acetamide | 2.62 mmol, 500 mg | O=C1COC2=C1C=CC(=C2)NC(C)=O | C10H9NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 6-Amino-1-benzofuran-3(2H)-one | NC1=CC2=C(C(CO2)=O)C=C1 | C8H7NO2
